US06599917B1
b) 3-Hydroxy-2-(4-methoxybenzyl)-6-methylpyridine
A mixture of 0.87 g of 3-benzyloxy-2-[(4-methoxyphenyl)hydroxymethyl]-6-methylpyridine, 2.5 ml of acetic acid anhydride and 20 ml of pyridine was heated under stirring for 4 hours in an oil bath kept at 120° C. After the reaction solution was evaporated, water was added thereto. The mixture was extracted with ethyl acetate, and the organic phase was washed with brine, dried over anhydrous magnesium sulfate and concentrated. To the residue were added 20 ml of methanol, 10 ml of tetrahydrofuran and a catalytic amount of 10% palladium/carbon, followed by stirring for 10 hours in a hydrogen atmosphere. After the catalyst was filtered off, the filtrate was concentrated. Then, the crystals were washed with diethyl ether, to give 320 mg of the target compound.

reactant | 3-benzyloxy-2-[(4-methoxyphenyl)hydroxymethyl]-6-methylpyridine | 0.87 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)C)C(O)C1=CC=C(C=C1)OC | C21H21NO3
reactant | acetic acid anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-Hydroxy-2-(4-methoxybenzyl)-6-methylpyridine | 320 mg | OC=1C(=NC(=CC1)C)CC1=CC=C(C=C1)OC | C14H15NO2
